US08124617B2
2-[3-(benzyloxy)-5-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine-6-carboxylic acid
A solution of ethyl 2-(2,5-diisopropoxyphenyl)-3H-imidazo[4,5-b]pyridine-6-carboxylate (40 mg) and 1N aqueous sodium hydroxide solution (1 ml) in ethanol (2 ml) was stirred at room temperature for 48 hr. The reaction mixture was adjusted with 1N citric acid to pH 4, and the precipitated crystals were collected by filtration and washed with water and ethanol to give the title compound (27 mg) as colorless crystals. purity 94%. M+H: 404. 1H NMR (DMSO-d6) δ: 1.32 (6H, d, J=6.0 Hz), 4.70-4.78 (1H,m), 5.21 (2H, s), 6.75 (1H, s), 7.32-7.53 (8H, m), 8.44 (1H, s), 8.92 (1H, s).

reactant | ethyl 2-(2,5-diisopropoxyphenyl)-3H-imidazo[4,5-b]pyridine-6-carboxylate | 40 mg | C(C)(C)OC1=C(C=C(C=C1)OC(C)C)C1=NC=2C(=NC=C(C2)C(=O)OCC)N1 | C21H25N3O4
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
reactant | citric acid | 1N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethanol | 2 ml | C(C)O | C2H6O
product | 2-[3-(benzyloxy)-5-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine-6-carboxylic acid | 27 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OC(C)C)C1=NC=2C(=NC=C(C2)C(=O)O)N1 | C23H21N3O4
